US09126998B2
rac-tert-Butyl (2-amino-3-phenoxypropyl)carbamate
1.08 g of rac-tert-butyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-phenoxypropyl]carbamate (2.72 mmol, 1 equivalent) were initially charged in 5 ml of 40% strength aqueous methylamine solution and reacted in a microwave at 100° C. for 2 h. The reaction mixture was concentrated and the residue was then chromatographed on silica gel (Biotage Isolera; mobile phase: dichloromethane/methanol gradient). This gave 200 mg (27% of theory) of the title compound.

reactant | rac-tert-butyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-phenoxypropyl]carbamate | 2.72 mmol, 1.08 g, 1 equivalent | O=C1N(C(C2=CC=CC=C12)=O)C(CNC(OC(C)(C)C)=O)COC1=CC=CC=C1 | C22H24N2O5
reactant | methylamine | CN | CH5N
product | rac-tert-Butyl (2-amino-3-phenoxypropyl)carbamate | NC(CNC(OC(C)(C)C)=O)COC1=CC=CC=C1 | C14H22N2O3
